US05158954
Crude 2-(3-phenoxyphenoxy)-3-cyanopyridine (15 g) was stirred with Raney nickel alloy (15 g, 50:50) in refluxing 75% formic acid (200 ml) for 2 hours. The reaction mixture was diluted with water and then extracted repeatedly with ether. The combined ether extracts were dried, filtered and evaporated to give an orange oil. Filtration through a plug of silica (eluent hexane-ether, 1:1) afforded 2-(3-phenoxyphenoxy)-3-formylpyridine (3.03 g), infrared max. 1685 cm-1.

reactant | 2-(3-phenoxyphenoxy)-3-cyanopyridine | 15 g | O(C1=CC=CC=C1)C=1C=C(OC2=NC=CC=C2C#N)C=CC1 | C18H12N2O2
reactant | formic acid | 200 ml | C(=O)O | CH2O2
catalyst | Raney nickel | [Ni] | Ni
solvent | water | O | H2O
product | 2-(3-phenoxyphenoxy)-3-formylpyridine | 3.03 g | O(C1=CC=CC=C1)C=1C=C(OC2=NC=CC=C2C=O)C=CC1 | C18H13NO3
